US04937268
2-[(2-Phenylethyl)thio]ethanol
Phenethylmercaptan (2.0 g) and potassium hydroxide (0.81 g) in methanol (15 ml) were stirred together under nitrogen for 15 min. 2-Chloroethanol (2.33 g) was added and the solution stirred under nitrogen for 6 h. 2N hydrochloric acid was added to acidify the mixture to pH5, and the methanol evaporated in vacuo. The residue was partitioned between water (100 ml) and diethyl ether (100 ml) and separated. The aqueous phase was re-extracted with diethyl ether (100 ml) and the combined ethereal layers dried and evaporated in vacuo to give an oil. Purification by FCC eluting with System F (3:1) gave the title compound (1.80 g) as a colourless oil. T.l.c. (diethyl ether) Rf 0.70

reactant | Phenethylmercaptan | 2.0 g | C(CC1=CC=CC=C1)S | C8H10S
reactant | potassium hydroxide | 0.81 g | [OH-].[K+]
reactant | 2-Chloroethanol | 2.33 g | ClCCO | C2H5ClO
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
product | 2-[(2-Phenylethyl)thio]ethanol | 1.80 g | C1(=CC=CC=C1)CCSCCO | C10H14OS
